US04236002
7-[[Amino[3-(azidomethyl)-4-hydroxyphenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
7-[[Amino[3-(chloromethyl)-4-hydroxyphenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (0.02 mole) is added to tetrahydrofuran at about 40° C. Sodium azide (0.04 mole) in tetrahydrofuran is added and the resulting mixture is stirred for 3 hours. The tetrahydrofuran is evaporated and the residue is treated with water to remove the sodium chloride and the excess sodium azide. The resulting residue is taken up in ethyl acetate and the ethyl acetate is dried over magnesium sulfate. Filtration removes the magnesium sulfate and removal of the ethyl acetate gives the title compound.

reactant | 7-[[Amino[3-(chloromethyl)-4-hydroxyphenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.02 mole | NC(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C)C1=CC(=C(C=C1)O)CCl | C17H18ClN3O5S
reactant | Sodium azide | 0.04 mole | [N-]=[N+]=[N-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-[[Amino[3-(azidomethyl)-4-hydroxyphenyl]acetyl]amino]-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C)C1=CC(=C(C=C1)O)CN=[N+]=[N-] | C17H18N6O5S
